US07442839B2
iii) 4-{(1R)-2-[(6-{4-[3-(Cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-hydroxyethyl}-2-(hydroxymethyl)phenol acetate
A stirred solution of (1R)-2-[(6-{4-[3-(Cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol (110 mg) in glacial AcOH (5 ml) and water (0.3 ml) was heated at 85° C. for 40 min. The solution was evaporated to dryness and the residue was purified by Biotage™ column chromatography on silica using DCM-EtOH-ammonia (50:8:1) as eluent. The residue was dissolved in MeOH, treated with glacial AcOH and the solvent was removed to give the title compound (76 mg). LCMS RT=2.6 min ES+ve 548

reactant | (1R)-2-[(6-{4-[3-(Cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 110 mg | C1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)CCCCOCCCCCCNC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C33H49NO6S
reactant | AcOH | 5 ml | CC(=O)O | C2H4O2
solvent | water | 0.3 ml | O | H2O
product | 4-{(1R)-2-[(6-{4-[3-(Cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-hydroxyethyl}-2-(hydroxymethyl)phenol acetate | 76 mg | C(C)(=O)OC1=C(C=C(C=C1)[C@H](CNCCCCCCOCCCCC1=CC(=CC=C1)S(=O)(=O)C1CCCC1)O)CO | C32H47NO7S
